US05242805
Preparation of 2-dodecyl-7-hydroxy-3H-phenoxazine-3-one ("dodecylresorufin")
A solution of 4-dodecylresorcinol (8.5 g, 30.53 mmole) (Aldrich Chemical Company) and 4-nitrosoresorcinol (5.0 g, 35.9 mmole) (Aldrich) in concentrated sulfuric acid (100 mL) is heated to 67° C. with stirring for 5 hours. The reaction mixture is allowed to cool to room temperature, poured into ice-water (1800 mL) and filtered. The resulting precipitate is washed with water until the filtrate is neutral to pH paper. This precipitate is dissolved in chloroform and the combined aqueous filtrates are back-extracted with chloroform (6×250 mL) to recover additional product. The combined chloroform layers are dried over anhydrous sodium sulfate and evaporated to a dark purple solid (2.55 g), homogenous by SiO2 -t.l.c. (45:5:1 chloroform:methanol:triethylamine) Rf =0.69. An additional 5.58 g of product is obtained by neutralization of the aqueous filtrates above with 8M KOH and extraction with chloroform (total yield=8.13 g, 68%). 1H NMR (d6 -DMSO) δ:7.57(d,1H); 7.27(s,1H); 6.79(D,1H); 6.66(s,1H); 6.23(s,1H); 4.14(c,1H); 2.46(t,2H); 1.52(c,2H); 1.23(c,18H); 0.85(c,3H).

reactant | 4-dodecylresorcinol | 30.53 mmole, 8.5 g | C(CCCCCCCCCCC)C1=C(C=C(O)C=C1)O | C18H30O2
reactant | 4-nitrosoresorcinol | 35.9 mmole, 5.0 g | N(=O)C1=C(C=C(O)C=C1)O | C6H5NO3
solvent | sulfuric acid | 100 mL | S(O)(O)(=O)=O | H2O4S
product | 2-dodecyl-7-hydroxy-3H-phenoxazine-3-one | 5.58 g | C(CCCCCCCCCCC)C1=CC2=NC3=CC=C(C=C3OC2=CC1=O)O | C24H31NO3
